Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
Chills, diaphoresis, weakness, hypoxia, hypotension
 
Major Surgical or Invasive Procedure:
There were no major surgical or invasive procedures during 
hospitalization. 

 
History of Present Illness:
Mr. ___ is an ___ man with complex medical history 
including atrial fibrillation on Coumadin, end-stage renal 
disease (multifactorial secondary to hypertension and 
obstructive nephropathy) on HD ___ since 
___, hypertension, CHF, Gout, PVD, cricopharyngeal dysphagia 
___ neck fracture with quadriparesis, history of autonomic 
dysfunction, persistent volume-sensitive BP regulation, presents 
with weakness, chills, and diaphoresis.  
Of note, pt. was recently admitted from ___ to ___ for 
fevers/cough found to have evidence of a LLL pneumonia 
concerning for HCAP given recent hospitalization and ongoing HD. 
Hospital course complicated by newly diagnosed osteomyelitis of 
the left calcaneus. Podiatry evaluated the pt. Given significant 
co-morbidities, elected to proceed with conservative medical 
management. Previous wound cultures have shown MRSA, 
Enterococcus, Proteus and as such, ID recommended 
vanc/ceftazidime for both treatment of HCAP and 6 week course 
for osteomyelitis ___ to ___.  
Additionally, as of ___, pt. was d/c'ed off furosemide as it 
was seen that he makes little urine. Plan moving forward was 
scheduled catheterizations and irrigations once weekly leaving 
irrigant in bladder to deter infection.  
Pt. was in his usual state of health until 3 days prior to 
admission when he began to note right lower mandible tooth pain. 
Pt. had a dentist appointment today where they reattempted 
cementing his bridge in that region. During appt., he was noted 
to have chills, diaphoresis, weakness, lethargy, and decreased 
PO intake. Last underwent HD on ___. Per report, no repair 
or procedure performed at dental appointment. Pt. was noted to 
be with diminished responsiveness, noted to be hypoxic in the 
___ and hypotensive with SBP ___.  
In the ED, initial vitals were: 96.8 94 99/68 20 97%  
- Labs were significant for WBC 10.9, H/H 12.1/37.5, plt 171, 
INR 1.4, lactate 2.3, ___ 31221, AST 134, AP 264, Lipase 172, 
BUN 38, Trop 0.10, K >10.0 (hemolyzed, repeat pending)  
- CXR negative for pneumonia  
- Blood Cx Pending  
- The patient was given 500cc of NS, Zosyn 4.5G, propranolol 
10mg PO PRN tachycardia per Dr. ___  
___ prior to transfer were: 98.0 117 98/52 16 97% RA  
Upon arrival to the floor, pt. was initially difficult to 
arouse, but then became completely awake, alert/oriented x3. 
Able to recount history. Aware that he is at ___.  
 
Past Medical History:
ESRD on HD ___, since ___, HTN/T2DM/Obstructive 
Nephropathy)
CHF ___: LVEF= ___ with chronic transudative pleural 
effusions)
AFib on warfarin, propanolol
HTN
NIDDM - controlled with weight loss
Neurogenic Bladder
Gout
PVD
Hypothyroidism
Cricopharyngeal dysphagia ___ neck fracture
Sleep Apnea on CPAP
Anemia of chronic disease ___ renal dysfunction
Autonomic dysfunction - previously on midodrine and 
fludrocortisone
Chronic osteomyelitis ___ diagnosed by bone fragment biospy 
now s/p vanco/ceftaz
Hypothyroidism
I&D buttock hematoma (93)
Left arm radiocephalic AV fistula creation (___)
Superficialization of left arm AV fistula (___)
Repair of left arm arteriovenous fistula aneurysm (___)
Repair of LUE AVF aneurysm (___)
PleurX® pleural drainage tube (___)
HCAP (___)
Left calcaneal osteomyelitis ___ diagnosed by MRI) to 
receive 6 week course vancomycin/ceftazidime.
Likely transient bacteremia in setting of dental procedure 
(___) 
 
Social History:
___
Family History:
His grandparents and father had hypertension and diabetes. No 
family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 97.3, 107/62, 106 irregular, 18, 99% on RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, purulent drainage from right 
mandibular molar region, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Tachycardic, irregular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Lungs: Anterior lung fields clear to auscultation bilaterally, 
no wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema; dialysis fistula with bruit LUE

DISCHARGE PHYSICAL EXAM
======================= 
General: In dialysis during physical examination, resting 
comfortably while on dialysis machine, breathing non-labored.
HEENT: Sclera anicteric, MMM, no purulence from right mandibular 
molar region, non-tender to palpation, oropharynx clear, EOMI, 
PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Normal rate, irregular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Lungs: Anterior lung fields clear to auscultation bilaterally, 
no wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: Alert and oriented x 3. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 10:15PM BLOOD WBC-10.9 RBC-3.82*# Hgb-12.1*# Hct-37.5*# 
MCV-98 MCH-31.7 MCHC-32.3 RDW-16.4* Plt ___
___ 10:15PM BLOOD Neuts-73.3* Lymphs-15.0* Monos-7.6 
Eos-2.9 Baso-1.2
___ 10:15PM BLOOD ___ PTT-37.0* ___
___ 10:15PM BLOOD Glucose-159* UreaN-38* Creat-6.2* Na-135 
K-GREATER TH Cl-105 HCO3-24
___ 10:15PM BLOOD Albumin-4.2 Calcium-10.2 Phos-4.6* 
Mg-2.7*

DISCHARGE LABS
==============
___ 07:31AM BLOOD WBC-10.0 RBC-3.39* Hgb-10.7* Hct-33.1* 
MCV-98 MCH-31.5 MCHC-32.2 RDW-16.5* Plt ___
___ 07:31AM BLOOD ___ PTT-35.8 ___
___ 07:31AM BLOOD Glucose-81 UreaN-43* Creat-6.6* Na-141 
K-5.2* Cl-103 HCO3-24 AnGap-19
___ 07:31AM BLOOD Calcium-10.3 Phos-3.8 Mg-2.4

LIVER TESTS
===========
___ 10:15PM BLOOD ALT-33 AST-134* AlkPhos-264* TotBili-0.7
___ 11:40PM BLOOD CK(CPK)-65

CARDIOLOGY TESTS
================
___ 10:15PM BLOOD ___
___ 10:15PM BLOOD cTropnT-0.10*
___ 11:40PM BLOOD CK-MB-2

INFLAMMATORY MARKERS
====================
___ 11:40PM BLOOD CRP-7.9*
___ 04:59AM BLOOD ESR- >130
___ 07:31AM BLOOD CRP-7.8*
___ 07:31AM BLOOD ESR- 121 
      
URINE STUDIES
=============
___ 04:40AM URINE Color-Straw Appear-Clear Sp ___
___ 04:40AM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR
___ 04:40AM URINE RBC-3* WBC-2 Bacteri-FEW Yeast-NONE Epi-0
___ 04:40AM URINE CastHy-3*

MICROBIOLOGY
============
___: BLOOD CULTURE: NO GROWTH (FINAL)
___: BLOOD CULTURE: NO GROWTH (FINAL)
___: URINE CULTURE: NO GROWTH (FINAL)

IMAGING
=======
___: CHEST (PORTABLE AP)
FINDINGS: 
AP portable upright view of the chest.   Patient's chin obscures 
the superior mediastinum and portions of the lung apices.  The 
lung volumes are low also limiting evaluation.  The heart is 
moderately enlarged though this appears unchanged.  Retrocardiac 
space is poorly assessed.  Otherwise, there is no evidence of 
pneumonia.  No large effusion or pneumothorax.  Mediastinal 
contour stable.  Bony structures are intact.
 
IMPRESSION: 
No convincing evidence for pneumonia though left lung base 
poorly visualized. Cardiomegaly unchanged.
 
Brief Hospital Course:
___ man with complex medical history including atrial 
fibrillation on Coumadin, end-stage renal disease 
(multifactorial secondary to hypertension and obstructive 
nephropathy) on HD ___ since ___, 
hypertension, CHF, Gout, PVD, cricopharyngeal dysphagia ___ neck 
fracture with quadriparesis, history of autonomic dysfunction, 
persistent volume-sensitive BP dysregulation who presented with 
weakness, chills, and diaphoresis at a dental appointment. 

BRIEF HOSPITAL COURSE: 
# Fevers/Chills/Hypotension/Tooth Pain: Patient presented to his 
dentist with right mandibular molar pain. He saw dentist day of 
admission where dentists performed a manipulation of the tooth, 
at which point patient developed symptoms suggestive of possible 
transient bacteremia (hypotension, weakness, chills). He was 
transferred to ___ and was noted to have purulent drainage on 
exam. He initially received piperacillin-tazobactam in the ED. 
Unasyn was subsequently added on for further coverage. After 
treatment with antibiotics, patient's blood pressure improved. 
Patient's mental status remained at baseline. For completeness a 
CXR performed which was unrevealing for a source of infection. 
UA/urine culture also performed which was negative. Etiology of 
the presentation is thought to be secondary to dental infection 
with transient bacteremia in the setting of dental manipulation. 
He was discharged on metronidazole 500 mg PO Q8H with end date 
___ to cover for anaerobes (note: he has already been on 
vancomycin and ceftazidime for osteomyelitis of the heel and was 
continued on that during hospitalization). He is set to 
follow-up with his dentist, Dr. ___ to assess likely dental 
infection, and with his oral surgeon.  

His INR was noted to be low at 1.4 however his coumadin was not 
changed as flagyl will likely elevated his INR.

Transitional Issues:
======================
-Continue flagyl for 7 day course (___)
-Please have patient follow-up with Dr. ___ dentist, 
for further evaluation of his tooth infection and possible xrays 
to rule out deeper infection
-Consider transition to oral suppressive therapy for 
osteomyelitis in the future (could consider moxifloxacin and 
doxycycline)
-Please check INR on ___ at HD and fax results to Dr. ___ HD ___
-Please obtain repeat urinalysis as outpatient as urinalysis 
during hospitalization showed 3 RBC.
-Follow-up Blood cultures from ___, urine culture from ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CefTAZidime 2 g IV POST HD (___) 
2. CefTAZidime 3 g IV POST HD (SA) 
3. Vancomycin 1000 mg IV HD PROTOCOL 
4. Allopurinol 50 mg PO EVERY OTHER DAY 
5. Cinacalcet 30 mg PO 3X/WEEK (___) 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Midodrine 10 mg PO QAM 
8. Midodrine 7.5 mg PO QPM 
9. Finasteride 5 mg PO DAILY 
10. Nephrocaps 1 CAP PO DAILY 
11. Pantoprazole 40 mg PO Q12H 
12. Propranolol LA 120 mg PO DAILY 
13. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
14. Warfarin 2 mg PO EVERY OTHER DAY 
15. Warfarin 3 mg PO EVERY OTHER DAY 
16. B complex with C#20-folic acid 1 mg oral daily 

 
Discharge Medications:
1. Allopurinol 50 mg PO EVERY OTHER DAY 
2. CefTAZidime 2 g IV POST HD (___) 
3. CefTAZidime 3 g IV POST HD (SA) 
IF ON HD, administer dose on the ward after patient returns from 
each hemodialysis session.  
4. Cinacalcet 30 mg PO 3X/WEEK (___) 
5. Finasteride 5 mg PO DAILY 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Midodrine 10 mg PO QAM 
8. Midodrine 7.5 mg PO QPM 
9. Nephrocaps 1 CAP PO DAILY 
10. Pantoprazole 40 mg PO Q12H 
11. Propranolol LA 120 mg PO DAILY 
12. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
13. Vancomycin 1000 mg IV HD PROTOCOL 
14. B complex with C#20-folic acid 1 mg oral daily 
15. Warfarin 3 mg PO EVERY OTHER DAY 
16. Warfarin 2 mg PO EVERY OTHER DAY 
17. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth Every 8 hours Disp 
#*20 Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Tooth infection with possible transient bacteremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with weakness, low blood 
pressure and chills after being seen for a possible tooth 
infection at the dentist. You were given additional antibiotics 
and your symptoms resolved. We think that your symptoms were 
caused by a brief episode of bacteria in your blood. You were 
started on one additional antibiotic called Flagyl (or 
metronidazole) to treat a possible tooth infection. You should 
take this for one week. 

Dr. ___ is working on setting up a follow-up appointment for 
you with your dentist to evaluate for further treatment of your 
dental infection. 

You were noted to have a low INR while you were in house. You 
should continue to take your home coumadin dose and have your 
INR checked again on ___ at hemodialysis. 

It was a pleasure taking care of you!
Your ___ Care Team

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___